US05760035
A mixture of 2-bromoethyl phenyl ether (20.0 g), triphenylphosphine (26.2 g) and phenol (200 g) was heated at 90° C. with stirring for 48 hours. The mixture was cooled to approximately 40° C. and added to ether (1500 ml). The ether was decanted off and the residual oil was triturated with ether until a solid was obtained. The solid was collected by filtration to give (2-phenoxyethyl)triphenylphosphonium bromide.

reactant | 2-bromoethyl phenyl ether | 20.0 g | C1(=CC=CC=C1)OCCBr | C8H9BrO
reactant | triphenylphosphine | 26.2 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | phenol | 200 g | C1(=CC=CC=C1)O | C6H6O
solvent | ether | 1500 ml | CCOCC | C4H10O
product | (2-phenoxyethyl)triphenylphosphonium bromide | [Br-].O(C1=CC=CC=C1)CC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C26H24OP.BrH/c1-5-13-23(14-6-1)27-21-22-28(24-15-7-2-8-16-24,25-17-9-3-10-18-25)26-19-11-4-12-20-26;/h1-20H,21-22H2;1H/q+1;/p-1
